US07186753B1
To a solution of tacrine (4 g, 20.17 mmoles) in chloroform (50 ml) and N,N-dimethylformamide (15 ml), 4-bromobutyroylchloride (3.5 ml, 30.25 mmoles) is added. The reaction mixture is maintained under stirring at room temperature for 6 hours and then diluted with chloroform and washed with water. The organic phase, anhydrified with sodium sulphate, is evaporated at reduced pressure. The crude product is purged by chromatography on silica gel, eluting with n-hexane/ethyl acetate 8/2 (ratio by volume). 9-[4-bromo)butyroylamino]-1,2,3,4-tetrahydroacridine is obtained.

reactant | tacrine | 20.17 mmoles, 4 g | C=1C=CC=2C(C1)=C(C3=C(N2)CCCC3)N | C13H14N2
reactant | 4-bromobutyroylchloride | 30.25 mmoles, 3.5 ml | BrCCCC(=O)Cl | C4H6BrClO
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 1,2,3,4-tetrahydroacridine | C1CCCC2=NC3=CC=CC=C3C=C12 | C13H13N
